US08809538B2
3,5-difluoropyridine-2-carbothioamide
3,5-Difluoropicolinonitrile (1.00 g) was partially dissolved in methanol (5 mL) and cooled to 0° C. A solution of ammonium sulfide in water (1.1 mL, 45% weight) was added slowly and the reaction was stirred 14 hours. The reaction was decanted and this solution was concentrated and then purified by column chromatography using dichloromethane as the eluant to obtain the title compound (0.17 g) having the following physical data.

reactant | 3,5-Difluoropicolinonitrile | 1.00 g | FC=1C(=NC=C(C1)F)C#N | C6H2F2N2
reactant | ammonium sulfide | [NH4+]=S
solvent | methanol | 5 mL | CO | CH4O
solvent | water | 1.1 mL | O | H2O
product | 3,5-difluoropyridine-2-carbothioamide | 0.17 g | FC=1C(=NC=C(C1)F)C(N)=S | C6H4F2N2S
